US08486970B2
To a solution of 1.64 g of ethyl 2-(hydroxymethyl)isonicotinate in 32.8 ml of dichloromethane were added 1.24 ml of dihydropyrane and 2.32 g of pyridinium p-toluenesulfonate, followed by stirring overnight. Ethyl acetate was added thereto, followed by washing with a saturated aqueous ammonium chloride solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 2.4 g of ethyl 2-[(tetrahydro-2H-pyran-2-yloxy)methyl]isonicotinate.

reactant | ethyl 2-(hydroxymethyl)isonicotinate | 1.64 g | OCC=1C=C(C(=O)OCC)C=CN1 | C9H11NO3
reactant | dihydropyrane | 1.24 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.32 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 32.8 ml | ClCCl | CH2Cl2
product | ethyl 2-[(tetrahydro-2H-pyran-2-yloxy)methyl]isonicotinate | 2.4 g | O1C(CCCC1)OCC=1C=C(C(=O)OCC)C=CN1 | C14H19NO4
